US08071584B2
(rac)-3-(1,1-Dioxidotetrahydro-3-thienyl)-5-(4-fluorophenyl)-1H-indole-7-carboxamide
5-Bromo-3-(1,1-dioxidotetrahydro-3-thienyl)-1H-indole-7-carboxamide (100 mg, 0.28 mmol), and dioxane water (3:1, 2 mL) were dissolved together. 4-fluorophenyl boronic acid (59 mg, 0.42 mmol), potassium carbonate (116 mg, 0.84 mmol) were added and a stream of Ar was passed through the solution for 5 min and then Pd(PPh3)4 was added (32 mg, 0.028 mmol). Argon was passed through the solution for 5 min and then the mixture was heated on the microwave at 150° C. for 20 min. The reaction mixture was concentrated and purified by HPLC to afforded 17 mg of the title compound.

reactant | 5-Bromo-3-(1,1-dioxidotetrahydro-3-thienyl)-1H-indole-7-carboxamide | 0.28 mmol, 100 mg | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)C1CS(CC1)(=O)=O | C13H13BrN2O3S
reactant | 4-fluorophenyl boronic acid | 0.42 mmol, 59 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | potassium carbonate | 0.84 mmol, 116 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane water | 2 mL | O.O1CCOCC1
product | (rac)-3-(1,1-Dioxidotetrahydro-3-thienyl)-5-(4-fluorophenyl)-1H-indole-7-carboxamide | 17 mg | O=S1(CC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=C(C=C1)F)C(=O)N)=O | C19H17FN2O3S
